US05496875
Preparation of octadecyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate.
The product is prepared as described in Example 4b by reacting 27.1 g (0.1 mol) of mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate with 33.3 g (0.1 mol) of 1-bromooctadecane in the presence of 10.1 g (0.1 mol) of triethylamine. The product obtained has a melting point of 38°-40° C. after crystallization from acetonitrile.

reactant | mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate | 0.1 mol, 27.1 g | C(CCC(=O)[O-])(=O)OC1CC(N(C(C1)(C)C)C)(C)C
reactant | 1-bromooctadecane | 0.1 mol, 33.3 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
product | octadecyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate | C(CCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(=O)OCCCCCCCCCCCCCCCCCC | C32H61NO4
